US05278180
12.3 g of p-anisidine were added in small fractions to a suspension of 18.6 g of 4-nitrobenzoic acid chloride in 100 ml of pyridine and the mixture was heated for 2 hours at reflux. After returning to ambient temperature, the solution was poured into 500 ml of iced water and the precipitate formed was separated and washed with water, then dried under reduced pressure at 80° C. to obtain 20 g of N-(4-methoxyphenyl)-4-nitrobenzamide melting at 200° C.

reactant | p-anisidine | 12.3 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 4-nitrobenzoic acid chloride | 18.6 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 500 ml | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-methoxyphenyl)-4-nitrobenzamide | 20 g | COC1=CC=C(C=C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O4
